US06211199B1
16.1 Synthesis of 2-(3,4-dichlorophenyl)-4-(t-butyldimethylsilyloxy)butyronitrile
Combine 3,4-dichlorophenylacetonitrile (10 g, 53.8 mmol) and anhydrous tetrahydrofuran (50 mL). Cool in a dry-ice/acetone bath. Add dropwise a solution of lithium bis(trimethylsilyl)amide (64.5 mL, 1 M in THF, 64.5 mmol). Add dropwise, 2-(t-butyldimethylsilyloxy)-1-bromoethane (15.43 g, 64.5 mmol). When the addition of 2-(t-butyldimethylsilyloxy)-1-bromoethane is complete, warm the reaction mixture to ambient temperature. After 12 hours, partition the reaction mixture between ethyl acetate and water. Extract the aqueous layer twice with ethyl acetate. Combine the organic layers and extract with 1 M hydrochloric acid solution, dry over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 10% ethyl acetate/hexane to give the title compound: Rf=0.42 (silica gel, 10% ethyl acetate/hexane).

reactant | 3,4-dichlorophenylacetonitrile | 53.8 mmol, 10 g | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | lithium bis(trimethylsilyl)amide | 64.5 mmol, 1 M, 64.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-(t-butyldimethylsilyloxy)-1-bromoethane | 64.5 mmol, 15.43 g | [Si](C)(C)(C(C)(C)C)OCCBr | C8H19BrOSi
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2-(3,4-dichlorophenyl)-4-(t-butyldimethylsilyloxy)butyronitrile | ClC=1C=C(C=CC1Cl)C(C#N)CCO[Si](C)(C)C(C)(C)C | C16H23Cl2NOSi
